US04384879
(c) Preparation of the intermediate 2,2-dimethyl-4-(2,4-dichlorophenyl)-4-hydroxymethyl-1,3-dioxolan-5-one
104.4 g (0.4 mole) of 2,2-dimethyl-4-(2,4-dichlorophenyl)-1,3-dioxolan-5-one are dissolved in 700 ml of pyridine and to the solution are added 48 g of paraformaldehyde. Then 40 ml of a 40% solution of tetramethylammonium hydroxide in methanol are slowly added dropwise. The mixture is stirred for 12 hours, cooled to -5° C., and a solution of 100 ml of glacial acetic acid and 400 ml of pyridine is added dropwise until the pH value is 6.5 to 7. The reaction solution is poured into ice-water and extracted with methylene chloride. The extract is dried over sodium sulfate and the product is crystallised by addition of diethyl ether. The crystalline precipitate is washed with a small amount of diethyl ether and petroleum ether. It has a melting point of 182°-185° C.

reactant | 2,2-dimethyl-4-(2,4-dichlorophenyl)-1,3-dioxolan-5-one | 0.4 mole, 104.4 g | CC1(OC(C(O1)C1=C(C=C(C=C1)Cl)Cl)=O)C | C11H10Cl2O3
reactant | paraformaldehyde | 48 g | C=O | CH2O
reactant | tetramethylammonium hydroxide | [OH-].C[N+](C)(C)C
reactant | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | pyridine | 700 ml | N1=CC=CC=C1 | C5H5N
solvent | methanol | CO | CH4O
solvent | pyridine | 400 ml | N1=CC=CC=C1 | C5H5N
product | 2,2-dimethyl-4-(2,4-dichlorophenyl)-4-hydroxymethyl-1,3-dioxolan-5-one | CC1(OC(C(O1)(CO)C1=C(C=C(C=C1)Cl)Cl)=O)C | C12H12Cl2O4
